US08975254B2
d) (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-5-(2-oxopropyl)isoxazole-3-carboxamide
The title compound was prepared using the method of Example 34(d) starting from (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (200 mg, 0.767 mmol) and 5-(2-oxopropyl)isoxazole-3-carboxylic acid (169 mg, 0.997 mmol). The product was purified with flash chromatography using a gradient of methanol in DCM affording 101 mg (32%) of the title compound. 1H-NMR (400 MHz; CDCl3): δ 1.23 (d, 3H), 1.54 (s, 3H), 3.96 (s, 2H), 4.20-4.49 (m, 2H), 4.53-4.64 (m, 1H), 6.63 (d, 1H), 6.65-6.69 (m, 1H), 7.48 (d, 1H), 7.69 (d, 1H), 7.79-7.90 (m, 2H), 8.04 (d, 1H).

reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.767 mmol, 200 mg | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
reactant | 5-(2-oxopropyl)isoxazole-3-carboxylic acid | 0.997 mmol, 169 mg | O=C(CC1=CC(=NO1)C(=O)O)C | C7H7NO4
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-5-(2-oxopropyl)isoxazole-3-carboxamide | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C1=NOC(=C1)CC(C)=O | C20H18ClN5O3
